US05445762
4,10-Bis(3,3-dimethylbutyroyl)-1,7-dioxa-4,10-diazacyclododecane
Analogously to Example 2 from 1,7-dioxa-4,10-diazacyclododecane and 3,3-dimethylbutyryl chloride.

reactant | 1,7-dioxa-4,10-diazacyclododecane | O1CCNCCOCCNCC1 | C8H18N2O2
reactant | 3,3-dimethylbutyryl chloride | CC(CC(=O)Cl)(C)C | C6H11ClO
product | 4,10-Bis(3,3-dimethylbutyroyl)-1,7-dioxa-4,10-diazacyclododecane | CC(CC(=O)N1CCOCCN(CCOCC1)C(CC(C)(C)C)=O)(C)C | C20H38N2O4
